US07772256B2
6-(5-Hydroxy-benzofuran-2-yl)-nicotinamide
6-(5-Methoxy-benzofuran-2-yl)-nicotinamide (0.25 mmol) was mixed with CH2Cl2 (3 mL) at 0° C. under argon atmosphere. BBr3 (1M in CH2Cl2) (1.0 mL) was added dropwise and the mixture was stirred for 2 h at rt. The mixture was hydrolysed with H2O followed by NaHCO3 (sat. aq.). The resulting mixture was filtered, and the obtained precipitate was washed with H2O and EtOAc. The solid was dried at 40° C. for 15 h under vacuum (12 mg).

reactant | 6-(5-Methoxy-benzofuran-2-yl)-nicotinamide | 0.25 mmol | COC=1C=CC2=C(C=C(O2)C2=NC=C(C(=O)N)C=C2)C1 | C15H12N2O3
reactant | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
reactant | BBr3 | 1M, 1.0 mL | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2O | O | H2O
product | 6-(5-Hydroxy-benzofuran-2-yl)-nicotinamide | OC=1C=CC2=C(C=C(O2)C2=NC=C(C(=O)N)C=C2)C1 | C14H10N2O3
